US07323567B2
b) Methyl 2-amino-6-chloro-3-nitrobenzoate
A solution of methyl 6-chloro-2-[(4-methoxybenzyl)amino]-3-nitrobenzoate (13.2 g, 37.6 mmol) and TFA (75 mL) was stirred at room temperature for 1.7 h. The mixture was diluted with EtOAc (500 mL) and water (250 mL). Solid NaHCO3 (125 g) was slowly added to the heterogeneous mixture. Saturated aqueous NaHCO3 solution (200 mL) and EtOAc were added and the phases were separated. The organic layer was washed with saturated aqueous NaHCO3 solution (150 mL) and brine (50 mL) then dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (10-40μ silica gel; hexane:EtOAc 5:1) to yield the title compound (7.03 g, 81% yield) as a yellow solid.

reactant | methyl 6-chloro-2-[(4-methoxybenzyl)amino]-3-nitrobenzoate | 37.6 mmol, 13.2 g | ClC1=CC=C(C(=C1C(=O)OC)NCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H15ClN2O5
reactant | TFA | 75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 125 g | C(=O)(O)[O-].[Na+]
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | water | 250 mL | O | H2O
product | Methyl 2-amino-6-chloro-3-nitrobenzoate | 7.03 g, 81% yield | NC1=C(C(=O)OC)C(=CC=C1[N+](=O)[O-])Cl | C8H7ClN2O4
